US05114944
2-(4-Chlorophenyl)-5,7-dimethylpyrazolo[1,5-a]pyrimidine-3-acetic acid ethyl ester
A solution of 35.5 g (0.089 mole) of 3-amino-5-(4-chlorophenyl)-1H-pyrazole-4-acetic acid butyl ester ethanedioate, 8.9 g (0.089 mole) of pentane-2,4-dione, and 10 ml of concentrated hydrochloric acid was stirred at room temperature for 17 hours under a nitrogen atmosphere.

reactant | 3-amino-5-(4-chlorophenyl)-1H-pyrazole-4-acetic acid butyl ester ethanedioate | 0.089 mole, 35.5 g | C(C(=O)O)(=O)O.C(CCC)OC(CC=1C(=NNC1C1=CC=C(C=C1)Cl)N)=O
reactant | pentane-2,4-dione | 0.089 mole, 8.9 g | CC(CC(C)=O)=O | C5H8O2
solvent | hydrochloric acid | 10 ml | Cl | ClH
product | 2-(4-Chlorophenyl)-5,7-dimethylpyrazolo[1,5-a]pyrimidine-3-acetic acid ethyl ester | C(C)OC(CC=1C(=NN2C1N=C(C=C2C)C)C2=CC=C(C=C2)Cl)=O | C18H18ClN3O2
